US06660408B1
4-bromo-1,1′-binaphthyl and magnesium were refluxed in diethylether for one hour, which was then added to a solution of anthrone in tetrahydrofuran. The resulting mixture was heated for two hours, which was then poured into diluted hydrochloric acid. After being extracted by diethylether, organic layer was separated and dried over magnesium sulfate. It was purified according to conventional method, whereby 1-(9-anthryl)-4-(1-naphthyl)-naphthalene was obtained. This was dissolved in chloroform to which was added two equivalent amounts of N-bromosuccinimide, and they were stirred at room temperature for one day. The product was purified according to conventional method and 1-(10-bromo-9-anthryl)-4-(4-bromo-1-naphthyl)-naphthalene was obtained. With this pdoruct, diphenylamine was reacted in nitrobenzene at 180° C. for 40 hours together with potasium carbonate and copper powder. After nitrobenzene was removed by vacuum distillation, the reaction mixture was purified according to conventional method, whereby the target compound (18) was obtained.

reactant | 4-bromo-1,1′-binaphthyl | BrC1=CC=C(C2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C20H13Br
reactant | magnesium | [Mg] | Mg
reactant | anthrone | C1=CC=CC=2CC3=CC=CC=C3C(C12)=O | C14H10O
reactant | hydrochloric acid | Cl | ClH
solvent | diethylether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(9-anthryl)-4-(1-naphthyl)-naphthalene | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C1=CC=C(C2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C34H22
